US07517875B2
After adding 3,5-dichloro-2-hydroxybenzaldehyde (0.3 mmol) and sodium triacetoxyborohydride (0.3 mmol) to a solution of 2-[(piperidin-4-ylmethyl)-amino]-1H-benzimidazole-5-carboxylic acid ethyl ester (0.1 mmol) in dimethylformamide-acetic acid (10:1) (1.0 ml), the mixture was stirred at room temperature overnight. Methanol (1.0 ml) was added to the reaction mixture to suspend the reaction, and after stirring for 1 hour, the solution was passed through SCX (Bond Elute SCX500MG). The SCX was washed with methanol and then with a mixed solution of chloroform/methanol (1/1), and elution was performed with a 0.5N ammonia-dioxane solution. The solvent was distilled off under reduced pressure, and the obtained residue was subjected to preparative HPLC to obtain 2-{[1-(3,5-dichloro-2-hydroxybenzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-5-carboxylic acid ethyl ester. The compound was identified by LC-MS.

reactant | 3,5-dichloro-2-hydroxybenzaldehyde | 0.3 mmol | ClC=1C(=C(C=O)C=C(C1)Cl)O | C7H4Cl2O2
reactant | sodium triacetoxyborohydride | 0.3 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2-[(piperidin-4-ylmethyl)-amino]-1H-benzimidazole-5-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C1=CC2=C(NC(=N2)NCC2CCNCC2)C=C1 | C16H22N4O2
reactant | Methanol | 1.0 ml | CO | CH4O
solvent | dimethylformamide acetic acid | 1.0 ml | CN(C=O)C.C(C)(=O)O
product | 2-{[1-(3,5-dichloro-2-hydroxybenzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(NC(=N2)NCC2CCN(CC2)CC2=C(C(=CC(=C2)Cl)Cl)O)C=C1 | C23H26Cl2N4O3
